US04218370
A. Preparation of 3-Acetylpropyl Acetate
To a 1 liter 3-neck round bottom flask equipped with a stirrer, thermometer, condenser and addition funnel, was added 102 grams (1 mole) of 3-acetylpropanol, 125 mls of pyridine and 600 mls of methylene chloride. With ice cooling and good agitation, 78.5 grams (1 mole) of acetyl chloride was added slowly from the addition funnel while holding the temperature at 25° C. or below. Pyridine hydrochloride began coming out of solution about 1/3 of the way through the addition. After the addition was complete, the reaction mixture was stirred an additional 15 minutes at 20°-25° C. and then warmed to 40° C. and stirred an hour at 40° C. Then 150 mls of water were added to dissolve the pyridine hydrochloride and the aqueous layer was separated. The organic layer was washed twice with 200 mls of 10% HCl, once with water and saturated sodium bicarbonate solution. The organic layer was dried over anhydrous sodium sulfate, filtered and the methylene chloride stripped off on a rotary evaporator under reduced pressure. The light yellow liquid weighed 104 grams (72% crude yield). The infrared spectrum of the product contained two strong carbonyl bands at 1720 cm-1 and 1745cm-1 and there was no OH band.

reactant | 3-acetylpropanol | 1 mole, 102 grams | C(C)(=O)CCCO | C5H10O2
reactant | pyridine | 125 mls | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1 mole, 78.5 grams | C(C)(=O)Cl | C2H3ClO
reactant | Pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | water | 150 mls | O | H2O
solvent | methylene chloride | 600 mls | C(Cl)Cl | CH2Cl2
product | 3-Acetylpropyl Acetate | C(C)(=O)OCCCC(C)=O | C7H12O3
